US06166047
(3-(3-Pyridyloxy)propyl)methylamine
The 3-chloro-1-(3-pyridyloxy)propane (4.90 g, 28.55 mmol) was dissolved in methanol (60 mL) and added to a 40 wt % solution of methylamine (60 mL) in a heavy-walled pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 80° C. for 15 h. After cooling, the mixture was concentrated by rotary evaporation, a saturated NaCl solution (25 mL) was added, and the mixture was basified with 20% NaOH solution (5.0 mL). The mixture was extracted with chloroform (4×30 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to give 3.64 g of a brown oil. The product was purified by column chromatography on silica gel (100 g) eluting with chloroform-methanol-triethylamine (70:30:2.5, v/v/v). Selected fractions containing the product (Rf 0.30) were combined and concentrated by rotary evaporation. The resulting residue was dissolved in chloroform (15 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation to give 1.92 g (40.4%) of a brown oil. 1H NMR (CDCl3, 300 MHz): δ 8.31 (dd, 1H, J=2.39, 1.44 Hz), 8.20 (dd, 1H, J=3.88, 2.29 Hz), 7.14 (m, 2H, J=3.90, 1.11 Hz), 4.09 (t, 2H, J=6.22 Hz), 2.78 (t, 2H, J=6.80 Hz), 2.46 (s, 3H), 1.99 (p, 2H, J=6.54 Hz), 1.59 (br, s, 1H). 13C NMR (CDCl3, 75 MHz): δ 155.16, 142.08, 138.09, 123.84, 121.05, 66.59, 48.78, 36.53, 29.44. EI-MS: m/z (relative intensity) 166 (M+, 10.08%), 123 (41.85%), 95 (100.00%), 70 (45.84%), 44 (89.75%), 39 (41.62%).

reactant | 3-chloro-1-(3-pyridyloxy)propane | 28.55 mmol, 4.90 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | methylamine | 60 mL | CN | CH5N
solvent | methanol | 60 mL | CO | CH4O
product | (3-(3-Pyridyloxy)propyl)methylamine | 3.64 g | N1=CC(=CC=C1)OCCCNC | C9H14N2O
